US07638631B2
5-(4-{[1-(1-Methylethyl)-4-piperidinyl]methyl}-1-piperidinyl)-2-(trifluoromethyl)pyrimidine (E36)
Example 36 was prepared using an analogous process to that described in Example 35 from 1-(1-methylethyl)-4-(4-piperidinylmethyl)piperidine (may be prepared as described in Description 4) and 5-bromo-2-trifluoromethylpyrimidine (may be prepared as described in F. Cottet and M. Schlosser, Eur. J. Org. Chem., 2002, 327). 1H-NMR and mass spectral data were consistent with structure. MS electrospray (+ion) 371 (MH+).

reactant | 1-(1-methylethyl)-4-(4-piperidinylmethyl)piperidine | CC(C)N1CCC(CC1)CC1CCNCC1 | C14H28N2
reactant | 5-bromo-2-trifluoromethylpyrimidine | BrC=1C=NC(=NC1)C(F)(F)F | C5H2BrF3N2
product | 5-(4-{[1-(1-Methylethyl)-4-piperidinyl]methyl}-1-piperidinyl)-2-(trifluoromethyl)pyrimidine | CC(C)N1CCC(CC1)CC1CCN(CC1)C=1C=NC(=NC1)C(F)(F)F | C19H29F3N4
